### PR TITLE
[Merged by Bors] - feat(Topology/Algebra/InfiniteSum): add hasProd_ite_eq' and tprod_ite_eq'

### PR DESCRIPTION
**Pull request by xhalo32**
Adds `eq'` variants that mirror those in `Mathlib/Algebra/BigOperators/Group/Finset/Piecewise.lean` and `Mathlib/Algebra/BigOperators/Finsupp/Basic.lean`.

For proof of their usefulness, these summability lemmas about indicator functions are now straight-forward:

```lean
theorem hasSum_indicator_singleton_const [CommMonoid α] [TopologicalSpace α] [TopologicalSpace β] [AddCommMonoid β]
  {x : α} {f : α → β} (L := unconditional α) [L.LeAtTop]
  : HasSum (fun y => Set.indicator {y} f x) (f x) L
:= by
  classical
  exact hasSum_ite_eq' x (f x) L

theorem summable_indicator_singleton_const [CommMonoid α] [TopologicalSpace α] [TopologicalSpace β] [AddCommMonoid β]
  {x : α} {f : α → β} (L := unconditional α) [L.LeAtTop]
  : Summable (fun y => Set.indicator {y} f x) L
:= ⟨_, hasSum_indicator_singleton_const _⟩
```

We are also depending on these proofs in [Polya-lean](https://github.com/alma-n/polya-lean).

Update: changed `convert` to `convert!`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by xhalo32** [comment]
Requesting a review from @YaelDillies

**Comment by xhalo32** [comment]
~~"Label PR and report count" job in CI is failing due to a 403 error. Is there anything I can do?~~

The target branch change was a misclick, CI is working again.

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Topology/Algebra/InfiniteSum/Basic.lean [hunk 1]
```diff
@@ -172,6 +172,12 @@ theorem hasProd_ite_eq (b : β) [DecidablePred (· = b)] (a : α) (L := uncondit
   convert! hasProd_single b (hf := fun b' hb' ↦ if_neg hb') (L := L)
   exact (if_pos rfl).symm
 
+@[to_additive]
+theorem hasProd_ite_eq' (b : β) [DecidablePred (b = ·)] (a : α) (L := unconditional β) [L.LeAtTop] :
+    HasProd (fun b' ↦ if b = b' then a else 1) a L := by
+  convert! hasProd_single b (hf := fun b' hb' ↦ if_neg hb'.symm) (L := L)
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/InfiniteSum/Basic.lean]: Why do you need to convert here?

Comment (xhalo32) [reply Mathlib/Topology/Algebra/InfiniteSum/Basic.lean]: It's copied from `hasProd_ite_eq` which is right above this one in the source.

Would you like me to get rid of the `convert` in both?

Comment (faenuccio) [reply Mathlib/Topology/Algebra/InfiniteSum/Basic.lean]: If this is doable without making the code horrible, it would be nice. If not, it is not the end of the world.

Comment (xhalo32) [reply Mathlib/Topology/Algebra/InfiniteSum/Basic.lean]: It was straight-forward to change it to use `suffices` instead of `convert!`. I changed both `hasProd_ite_eq` and `hasProd_ite_eq'`

**Comment by faenuccio** [comment]
I see that you've got some problems here. Try to merge `master` in your branch, this will likely fix most of the issues.

**Comment by xhalo32** [comment]
I have rebased on the latest master, hopefully that's okay. (I'm not even sure how to do a traditional merge with jujutsu :D)

**Comment by faenuccio** [comment]
thanks 

bors merge
